Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfonamides / Penicillins / Decongestant Sinus / Potassium 
Sorbate
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
pt is ___ F with metastatic thymic carcinoma c/b recurrent 
malignant effusions requiring pleurodesis most recently ___, 
s/p surgical excision of tumor and XRT, s/p one cycle of 
palliative chemotherapy with etoposide/carboplatin who presents 
today after persistent cough, DOE, and worsening diarrhea.  
.  
Of note, pt recently admitted to ___ ___ after ~3d of URI 
like symptoms. CT C/A/P at that time revealed no evidence of 
PNA, and interval decrease in size of her persistent pleural 
effusions, though persistent loculation. Pt evaluated by 
thoracics who elected not to repeat tap at that time. Pt was tx 
with cefepime x1 in ___, and transitioned to cefpodoxime upon 
discharge despite apparent dx of viral URI. This was changed to 
levaquin ___ n/v. returns for evaluation of fevers.  
.  
Pt notes GI upset after her first dose of cefpodoxime, however 
first loose stool occured the following morning. She reports BMs 
occuring hourly, no blood, and increasing in frequency to q15-30 
minutes. She denied LH/Dizzy, and notes some mild RUQ abd pain 
which is essentially unchanged from prior admission. She also 
notes a change in the character of her sputum from clear to 
yellow.  
.  
.  
In the ___ was AF, BP 111/58, HR 103. Her WBC was 
significantly elevated to 29 (from about 5 just tow days ago). 
Her Na was low, 121 --> 127 after 2L NS. Chext X-ray did not 
show infiltrate, however chest CT showed new 
consolidation/ground glass opacity in the right middle lobe and 
left upper lobe consistent with pneumonia. There was also mild 
thickening of the cecal, distal sigmoid colonic, and rectal 
walls suggestive of early inflammation, though there is not much 
surrounding fat stranding. Stool culture and c dif toxin assay 
were sent. She was given Albuterol and ipratropium nebs, Zofran, 
Tylenol,  
Vancomycin 1g IV, and Flagyl 500mg IV, Ciprofloxacin 400 mg IV.  

.  
Upon arrival to the OMED floor, she reported ___ RSCP that 
started at midnight, while she was drinnking contrast for CT 
scan. She describes it as tightness. She said that she has never 
had this pain before and it is different from her GERD. Pain 
does not radiate. She also c/o SOB. No nausea or diaphoresis. No 
improvement after Nitro x 3. Upon further interview with pt's 
family, pt and family agree that these symptoms are her classic 
reflux symptoms (pain is a burning which moves up and down her 
esophagus), and is releived with maalox.  

 
Past Medical History:
1. Thymic carcinoma: s/p excision and s/p recent vocal cord 
medialization, s/p XRT over the summer, now on chemotherapy with 
etoposide  
2. Asthma diagnosed at age ___, treated at ___, previously 
hospitalized, never intubated.  
3. GERD  
4. Post nasal drip  
5. Diabetes: treated with metformin in the past, but pt 
experienced nausea and stopped use.  
6. Hypertension  
7. Recurrent malignant pleural effusion s/p pleurodesis ___ ___  

 
___ History:
___
Family History:
No known family history of cancer. Family history of asthma - 
one daughter and ___ grandchildren affected. No FH of CAD or DM.
 
Physical Exam:
VS: 97.7 28 87 102/58 99%2L -> 95%RA  
GENERAL: no acute distress, flat affect but pleasant  
HEENT: EOMI. OP clear no lesions. No scleral icterus. MM sl dry. 
 
NECK: supple, jvp 9cm, no LAD  
CARDIAC: RRR, normal S1,S2, no r/g. ___ SEM @ LSB.  
RESP: CTA bilaterally; no wheezes or crackles, good air movement 
throuhgout.  
ABD: soft, nd, +BS x4 quadrants, mild tenderness to palpation 
over epigastrium and RUQ, negative ___ sign.  
EXTR: warm, no edema  
Neuro: alert and oriented x 3.  

 
Pertinent Results:
CTA and ___ CT ___:
1. New confluent ground opacity in the right middle and lower 
lobes and left upper lobe consistent with multifocal pneumonia.
2. Small-to-moderate amount of loculated right-sided pleural 
fluid.
3. Thickening of the wall of distal sigmoid colon in the rectum 
as well as the cecum consistent with proctitis and pancolitis.
4. No evidence of central or segmental pulmonary embolism.
.
u/s LUE ___:
Clot in a small segment of the left cephalic vein at the level 
just above the elbow. All other veins including the segment of 
the cephalic vein above this area was within normal limits. 
.
U/S LUE ___:
LEFT UPPER EXTREMITY VENOUS ULTRASOUND: Grayscale and Doppler 
sonogram of the left internal jugular, subclavian, axillary, 
brachial, basilic, and cephalic veins are performed. Normal 
waveforms, compressibility, augmentation, and flow are 
demonstrated. No intraluminal thrombus is identified.
IMPRESSION: No DVT.
.  
KUB ___:
IMPRESSION:
1. No evidence of bowel obstruction.
2. Bilateral pleural effusions, increased.
3. Right hilar mass, likely correlating with patient's history 
of thymic carcinoma, partially imaged.

.  
___ EKG: nsr, 1st degree avb (old), 95bpm, q in III, no 
STE/STD (?<1mm avr), TWI in V1 (old).  

___ 03:00PM   SODIUM-130* POTASSIUM-3.1* CHLORIDE-99
___ 03:00PM   CK(CPK)-22*
___ 03:00PM   CK-MB-2 cTropnT-<0.01
___ 03:00PM   MAGNESIUM-3.0*
___ 07:30AM   GLUCOSE-107* UREA N-8 CREAT-0.8 SODIUM-131* 
POTASSIUM-3.0* CHLORIDE-100 TOTAL CO2-20* ANION GAP-14
___ 07:30AM   CK(CPK)-29
___ 07:30AM   CK-MB-2 cTropnT-<0.01
___ 07:30AM   CALCIUM-7.6* PHOSPHATE-2.4* MAGNESIUM-1.8
___ 07:30AM   WBC-24.5* RBC-3.02* HGB-7.5* HCT-24.2* 
MCV-80* MCH-24.9* MCHC-31.0 RDW-16.0*
___ 07:30AM   PLT COUNT-495*
___ 07:00AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 07:00AM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 01:40AM   GLUCOSE-85 UREA N-9 CREAT-0.8 SODIUM-127* 
POTASSIUM-3.4 CHLORIDE-95* TOTAL CO2-20* ANION GAP-15
___ 01:40AM   CK(CPK)-36
___ 01:40AM   CK-MB-NotDone cTropnT-<0.01
___ 09:35PM   NEUTS-87* BANDS-6* LYMPHS-1* MONOS-5 EOS-0 
BASOS-0 ATYPS-1* ___ MYELOS-0
___ 09:35PM   PLT COUNT-452*
___ 08:30PM   LACTATE-1.0
___ 07:33PM   ___ PTT-27.2 ___
___ 07:00PM   GLUCOSE-90 UREA N-13 CREAT-0.9 SODIUM-121* 
POTASSIUM-3.2* CHLORIDE-85* TOTAL CO2-22 ANION GAP-17
___ 07:00PM   ALT(SGPT)-22 AST(SGOT)-19 ALK PHOS-161* TOT 
BILI-0.4
___ 07:00PM   LIPASE-8
___ 07:00PM   WBC-28.9*# RBC-3.43* HGB-8.7* HCT-26.3* 
MCV-77* MCH-25.4* MCHC-33.1 RDW-15.9*
___ 07:00PM   NEUTS-78* BANDS-17* LYMPHS-1* MONOS-2 EOS-0 
BASOS-0 ___ METAS-1* MYELOS-0 BLASTS-1*
___ 07:00PM   HYPOCHROM-2+ ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-2+ POLYCHROM-OCCASIONAL 
SPHEROCYT-OCCASIONAL OVALOCYT-1+ SCHISTOCY-1+ BURR-OCCASIONAL 
TEARDROP-OCCASIONAL
___ 07:00PM   PLT COUNT-___ F h/o thymic ca with recurrent pleural effusions, s/p 
pleurodesis, presenting now with new PNA in setting of recent 
?virual URI and profuse diarrhea, resolving, though concerning 
for cdiff and w/ colitis on CT. 
.
HOSPITAL COURSE BY PROBLEM: 
.  
# SOB/PNA - Pt has h/o asthma. CTA with evidence of RLL and LUL 
PNA, no PE, no frank aspiration events per family, and given 
absence of these findings on recent CT on ___, feel likely now 
has bacterial superinfection of recent viral URI. also 
concerning is presence of ongoing loculated effusion, though has 
been present in past, no intervention was needed.  Patient was 
changed to levofloxacin and flagyl and improved with nebulizer 
treatments. She was oxygenating well on room air at discharge.
.  
# abd discomfort and diarrhea - likely ___ colitis seen on CT, 
did have mild RUQ pain, though LFTs stable (alk Phos slightly up 
from prior admission 150s->160s, though RUQ USN unremarkable 
earlier this week). AST, ALT wnl, lipase flat. Abdominal exam 
with diffuse mild tenderness but no peritoneal signs.  Repeat 
KUB prior to discharge was without free air or obstruction.  C 
Diff was negative x 3 but she will continue a 2 week course of 
flagyl.  She is recommended to follow up with her PCP and may 
need a sigmoidoscopy/colonoscopy if her symptoms persist.
.  
.  
# chest pain - on addmision; no EKG changes, and on further 
review more consistent with GERD or pleuritic pain. cardiac 
enzymes negative x 2 and EKGs without evidence of ischemia.   
.  
.  
# GERD - continued PPI as above, maalox prn.  
.  
# DM - not currently on treatment, covered with SSI with sugars 
in low 100s to low 200s.  She could benefit from an oral 
hypoglycemic.
.  
# HTN. Held HCTZ given diarrhea. Continued Diovan and is 
recommended to discuss her regimen with her PCP.  
.  
# Thymic carcinoma. Pt s/p one cycle of palliative chemotherapy 
with etoposide and carboplatinum. Further treatment plan per her 
Oncologist, currently on hold while acutely ill. 
.  
# Hyponatremia. Most likely hypovolemic hyponatremia. She 
received IVF as needed.
.  
# Asthma. Continued her inhalers and may use nebs prn.  
.  

# Comm. HCP - (c) ___, (h) ___, Daughter 
___ ___  
.  
# Code. Full - confirmed with patient and HCP ___ ___.  

 
Medications on Admission:
MEDICATIONS (per recent discharge summary):
1. Hydrochlorothiazide 25 mg PO DAILY
2. Ventolin 2 PUFF IH Q6H
3. Hydrocodone-Acetaminophen ___ TAB PO Q6H:PRN
4. Aspirin 81 mg PO DAILY
5. Ipratropium Q6H:PRN
6. Lorazepam 1mg BID
7. Docusate Sodium 100 mg PO BID:PRN
8. Montelukast Sodium 10 mg PO DAILY
9. Escitalopram Oxalate 10 mg PO DAILY
10. Pantoprazole 40 mg PO Q24H
11. Fexofenadine 60 mg PO BID
12. Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H
13. Fluticasone Propionate NASAL 1 SPRY NU BID
14. Fluticasone Propionate 110mcg 2 PUFF IH BID
15. Valsartan 320 mg PO DAILY
16. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN
 
Discharge Medications:
1. Ipratropium Bromide 0.02 % Solution Sig: One (1) neb 
Inhalation Q6H (every 6 hours) as needed for shortness of breath 
or wheezing.
Disp:*QS neb* Refills:*2*
2. Albuterol Sulfate 2.5 mg/3 mL Solution for Nebulization Sig: 
One (1) neb Inhalation every four (4) hours as needed for 
shortness of breath or wheezing.
Disp:*QS neb* Refills:*2*
3. nebulizer machine
4. Codeine-Guaifenesin ___ mg/5 mL Syrup Sig: ___ MLs PO Q6H 
(every 6 hours) as needed for cough for 1 weeks.
Disp:*QS ML(s)* Refills:*0*
5. Valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
6. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
8. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).  
9. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
10. Salmeterol 50 mcg/Dose Disk with Device Sig: One (1) Disk 
with Device Inhalation Q12H (every 12 hours).  
11. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*
12. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 8 days.
Disp:*24 Tablet(s)* Refills:*0*
13. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
14. Escitalopram 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 8 days.
Disp:*8 Tablet(s)* Refills:*0*
16. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.
Disp:*30 Tablet(s)* Refills:*2*
17. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
18. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
19. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*2*
20. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
pneumonia
colitis
SECONDARY:
thymic cancer
asthma
elevated blood glucose not on diabetes medication
hypertension
recurrent malignant pleural effusion status-post pleurodesis 
___

 
Discharge Condition:
good
oxygenating well on room air

 
Discharge Instructions:
You were admitted with a pneumonia and diarrhea with colitis, as 
seen on CT scan of the abdomen.  You were treated with 
antibiotics for both your lung and colon infection.  Your 
breathing improved greatly and received nebulizer and inhaler 
treatments.  You will continue these at home.
.
Your hydrochlorothiazide was stopped because it can worsen 
diarrhea.  Please discuss with your primary care phsyician if 
you should start a new blood pressure medication.  No other 
chagnes in your medications were made.  You may use the 
nebulizer ipratropium/albuterol or the inhalers.  Use the 
ipratropium regularly and albuterol as needed, as it can cause 
palpitations.
.
Please finish all antibiotics as indicated
.
If you develop any concerning symptoms such as worsening 
shortness of breath, persistent fevers or worsening abdominal 
pain or diarrhea, please call your physician or proceed to the 
emergency department.
.
 
Followup Instructions:
___